US04002762
A solution of 33.0 g of 2-amino-6-methyl-4-phenyl-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester and 6.8 g of sodium ethylate in 500 ml of ethanol is brought to the boil and treated with 15 g of methyl iodide. After boiling for a further 60 minutes under reflux, the mixture is concentrated by distillation and the residue is taken up in 300 ml of chloroform and extracted by shaking twice with 100 ml of water. Concentration of the organic phase and recrystallization from ethanol gives 18.6 g (54% of theory) of 2-amino-3,6-dimethyl-4-phenyl-3,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester of melting point 139° C.

reactant | 2-amino-6-methyl-4-phenyl-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester | 33.0 g | C(C)OC(=O)C1=C(NC(=C(C1C1=CC=CC=C1)C(=O)OCC)C)N | C18H22N2O4
reactant | sodium ethylate | 6.8 g | CC[O-].[Na+]
reactant | methyl iodide | 15 g | CI | CH3I
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 2-amino-3,6-dimethyl-4-phenyl-3,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester | 18.6 g, 54% | C(C)OC(=O)C1(C(=NC(=C(C1C1=CC=CC=C1)C(=O)OCC)C)N)C | C19H24N2O4
